US06919342B2
2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-tert-butyl-pyrimidine hydrochloride
1 g of 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-tert-butyl-pyrimidine (2.83 mmol), 0.4 g of 4-Methyl-5-methyl-4H-[1,2,4]triazole-3-thiol (3.09 mmol), 0.2 g of lithium-hydroxide (8.35 mmol) and a spatula tip of potassium iodide werde stirred in 20 ml of dimethylformamide for 2 h at 80° C. After addition of water and ethyl acetate, the organic phase was separated and dried over magnesium sulfate. After filtration and evaporation of the solvent, the crude product was purified by column chromatography on silica gel using dichloromethane-methanol (1-6%). Fractions containing the product were combined and the solvent was evaporated. The residue was dissolved in isopropanol, and a solution of HCl in isopropanol was added. On addition of diisopropylethylether, the product formed an oily mass. The solvent was decanted and the remaining oil evaporated to dryness to yield 0.6 g (41%) of the title compound as a white solid.

reactant | 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-tert-butyl-pyrimidine | 2.83 mmol, 1 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C(C)(C)C | C19H33ClN4
reactant | 4-Methyl-5-methyl-4H-[1,2,4]triazole-3-thiol | 3.09 mmol, 0.4 g | CN1C(=NN=C1C)S | C4H7N3S
reactant | potassium iodide | [I-].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-tert-butyl-pyrimidine hydrochloride | 0.6 g, 41% | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCSC1=NN=C(N1C)C)C(C)(C)C | InChI=1S/C23H39N7S.ClH/c1-17-26-27-21(28(17)8)31-15-9-10-29-11-13-30(14-12-29)19-16-18(22(2,3)4)24-20(25-19)23(5,6)7;/h16H,9-15H2,1-8H3;1H
